US06949571B2
3-[2-(5-oxazolyl)phenyl]-1-phenyl-5-(2-pyridyl)-1,2-dihydropyridin-2-one
13 mg of 3-(2-formylphenyl)-5-(2-pyridyl)-1-phenyl-1,2-dihydropyridin-2-one was dissolved in 10 ml of methanol. To the mixture were added 11 mg of tosylmethylisocyanide and 8 mg of potassium carbonate, followed by heating under reflux overnight. After the reaction solution was cooled to room temperature, water was added, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and brine, and then dried over anhydrous magnesium sulfate. It was filtered through NH silica gel and silica gel, and the filtrate was evaporated. The resulting precipitates were washed with ether and dried, to give 9 mg of the title compound.

reactant | 3-(2-formylphenyl)-5-(2-pyridyl)-1-phenyl-1,2-dihydropyridin-2-one | 13 mg | C(=O)C1=C(C=CC=C1)C=1C(N(C=C(C1)C1=NC=CC=C1)C1=CC=CC=C1)=O | C23H16N2O2
reactant | tosylmethylisocyanide | 11 mg | S(=O)(=O)(C1=CC=C(C)C=C1)C[N+]#[C-] | C9H9NO2S
reactant | potassium carbonate | 8 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | methanol | 10 ml | CO | CH4O
product | 3-[2-(5-oxazolyl)phenyl]-1-phenyl-5-(2-pyridyl)-1,2-dihydropyridin-2-one | 9 mg | O1C=NC=C1C1=C(C=CC=C1)C=1C(N(C=C(C1)C1=NC=CC=C1)C1=CC=CC=C1)=O | C25H17N3O2
